US07183273B2
AMD8759: Preparation of N-(2-pyridinylmethyl)-N′-(7-methoxy-1,2,3,4-tetrahydro-2-naphthalenyl)-1,4-benzenedimethanamine
Using General Procedure G: 7-methoxy-2-tetralone (60 mg, 0.34 mmol), N-(2-nitrobenzenesulfonyl)-N-(2-pyridinylmethyl)-1,4-benzenedimethanamine (100 mg, 0.24 mmol) and NaBH3CN (59 mg, 0.94 mmol) in MeOH (3 mL), trimethyl orthoformate (1.7 mL) and acetic acid (3 drops) were reacted for 3.5 hours. Following work-up, the crude material was purified by chromatography on silica gel (CH2Cl2/MeOH/NH4OH 98:1:1) to give the desired product (71 mg, 52%) as a yellow foam.

reactant | 7-methoxy-2-tetralone | 0.34 mmol, 60 mg | COC1=CC=C2CCC(CC2=C1)=O | C11H12O2
reactant | N-(2-nitrobenzenesulfonyl)-N-(2-pyridinylmethyl)-1,4-benzenedimethanamine | 0.24 mmol, 100 mg | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)N(CC1=CC=C(C=C1)CN)CC1=NC=CC=C1 | C20H20N4O4S
reactant | NaBH3CN | 0.94 mmol, 59 mg | [BH3-]C#N.[Na+]
solvent | MeOH | 3 mL | CO | CH4O
solvent | trimethyl orthoformate | 1.7 mL | C(OC)(OC)OC | C4H10O3
catalyst | acetic acid | 3 drops | C(C)(=O)O | C2H4O2
product | N-(2-pyridinylmethyl)-N′-(7-methoxy-1,2,3,4-tetrahydro-2-naphthalenyl)-1,4-benzenedimethanamine | 71 mg, 52% | N1=C(C=CC=C1)CNCC1=CC=C(C=C1)CNC1CC2=CC(=CC=C2CC1)OC | C25H29N3O
